US09340547B2
b) 1-Amino-3-chloro-N-o-tolyl-1H-pyrrole-2-carboxamide
In a 100 mL three-necked flask it was placed 11 mL of a 28% aqueous solution of sodium hydroxide, 4.1 mL of a 28% ammonium hydroxide solution, 1.23 g of ammonium chloride and 0.12 mL of Aliquat 336. Afterwards, a solution of 3-chloro-N-o-tolyl-1H-pyrrole-2-carboxamide (0.9 g, 3.84 mmol) in 30 mL of diethyl ether and 30 mL of methyl tert-butyl ether was added and placed at 0° C. affording a suspension. Over this suspension, a 10% aqueous solution of sodium hypochlorite (26 mL) was added drop wise with vigorous stirring maintaining the temperature during 20 min. more. Subsequently, the reaction mixture was stirred at room temperature during a further 1.5 h producing the consumption of the starting material. Next, the reaction crude was diluted with ethyl acetate until no suspended material was observed. The layers were separated and the organic phase was washed with a 25% aqueous solution of sodium thiosulphate, water and brine, dried (Na2SO4) and concentrated under vacuum to give a residue that was triturated with hexane to produce a solid (870 mg, 86% yield) after filtration.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | ammonium chloride | 1.23 g | [Cl-].[NH4+]
reactant | 3-chloro-N-o-tolyl-1H-pyrrole-2-carboxamide | 3.84 mmol, 0.9 g | ClC1=C(NC=C1)C(=O)NC1=C(C=CC=C1)C | C12H11ClN2O
reactant | sodium hypochlorite | 26 mL | Cl[O-].[Na+]
catalyst | Aliquat 336 | 0.12 mL | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
solvent | diethyl ether | 30 mL | C(C)OCC | C4H10O
solvent | methyl tert-butyl ether | 30 mL | C(C)(C)(C)OC | C5H12O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-Amino-3-chloro-N-o-tolyl-1H-pyrrole-2-carboxamide | 870 mg, 86% yield | NN1C(=C(C=C1)Cl)C(=O)NC1=C(C=CC=C1)C | C12H12ClN3O
